US09422292B2
To a solution of (R)-1,4-dimethyl-6-(4-(methylsulfonyl)phenyl)-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (0.34 mmol) in 1,4-dioxane and H2O (10:1, 5 mL) was added 5-bromopyrazin-2-amine (63.2 mg, 0.36 mmol), Cs2CO3 (197.3 mg, 0.61 mmol) and Tetrakis(triphenylphosphine)palladium(0) (21.9 mg, 0.03 mmol). The mixture was purged with N2 and stirred in the microwave at 130° C. for 20 min. The reaction solution was concentrated and purified by prep-TLC (elute: DCM:CH3OH=15:1) to give (R)-5-(1,4-dimethyl-6-(4-(methylsulfonyl)phenyl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyrazin-2-amine (39 mg, 28%).

reactant | (R)-1,4-dimethyl-6-(4-(methylsulfonyl)phenyl)-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.34 mmol | CC1=NN=C2N1C1=C(N(C[C@H]2C)C2=CC=C(C=C2)S(=O)(=O)C)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H31BN4O4S
reactant | 5-bromopyrazin-2-amine | 0.36 mmol, 63.2 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | Cs2CO3 | 0.61 mmol, 197.3 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 21.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-5-(1,4-dimethyl-6-(4-(methylsulfonyl)phenyl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyrazin-2-amine | 39 mg, 28% | CC1=NN=C2N1C1=C(N(C[C@H]2C)C2=CC=C(C=C2)S(=O)(=O)C)C=C(C=C1)C=1N=CC(=NC1)N | C23H23N7O2S
